Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Tequin / amoxicillin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / aspirin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

___: Abdominal CT scan with IV and PO contrast

 
History of Present Illness:
Ms. ___ is a ___ years old woman with history of RYGB on 
___ who presents to clinic complaining of crampy abdominal 
pain for the past week that got worse 3 days ago associated with 
nausea and vomiting. She refers eating makes the pain worse and 
resting makes it better. She refers passing gas and having bowel 
movements and denies fever, chills, dysphagia, chest pain, 
shortness of breath, GERD or any other related symptoms. Rest of 
the review of systems negative.

 
Past Medical History:
Past Medical History:
1. Progesterone autoimmune dermatitis.
2. Asthma; it has been greater than a year since she has
required steroids.  She quit smoking eight weeks ago and her 
asthma has dramatically improved.
3.  Depression.
4.  Migraine headaches, occasional.
5.  Lactose intolerance.
6.  Infertility.
7.  Borderline diabetes mellitus type 2.
8.  Hyperlipidemia.

Past Surgical History:  Tonsillectomy.

 
Social History:
___
Family History:
Paternal grandmother with breast cancer, paternal aunt with 
thyroid cancer, grandmother with GYN cancer, mother with asthma 
and question of COPD. 

 
Physical Exam:
VS:  
T: 98.3  HR: 61  BP: 106/60  RR: 18  O2Sat: 95%
 GEN: AA&O x 3, NAD, calm, cooperative. Tolerating regular diet.
 HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
 CHEST: Clear to auscultation bilaterally, (-) cyanosis.  
 CV: Regular rate and rhythm, S1S2 normal, no murmurs.
 ABDOMEN: soft, non-tender, non-distended. No nausea or 
vomiting. Tolerating a regular diet. 
 EXTREMITIES: Warm, well perfused, no edema  
 
Pertinent Results:
Labs:

___ 05:00PM BLOOD WBC-11.5* RBC-4.63 Hgb-14.1 Hct-41.7 
MCV-90 MCH-30.5 MCHC-33.8 RDW-12.2 RDWSD-39.7 Plt ___
___ 05:00PM BLOOD Plt ___
___ 05:00PM BLOOD Glucose-71 UreaN-9 Creat-0.6 Na-140 K-4.0 
Cl-106 HCO3-21* AnGap-17
___ 05:00PM BLOOD Calcium-9.1 Phos-3.6 Mg-1.9

Imaging:

___: Abdominal CT scan
IMPRESSION:  
Soft tissue stranding surrounding the jejunum, just distal to 
the  patient's  gastrojejunal anastomosis.  Findings are 
concerning for I inflammatory process or ulcer. 
Adjacent enlarged mesenteric lymph nodes, indeterminate, 
possibly reactive. 
Indeterminate focal narrowing of the transverse large bowel, may 
be transient finding, focal Mass cannot be excluded. 

 
Brief Hospital Course:
The patient presented to clinic on ___ complaining of 
abdominal pain for the past week that was associated with nausea 
and vomiting on ___. She was evaluated in clinic and because she 
had increased abdominal pain and could not keep anything down 
after eating we decided to admit her for pain control, fluid 
resuscitation and imaging.
  Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed IV dilaudid. Pain 
was very well controlled. The patient was then transitioned to 
oral pain medication once tolerating a stage 3 diet.  
 CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
 Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
 GI/GU/FEN: The patient was initially kept NPO until after her 
pain was better controlled and her abdominal CT scan was done. 
She was the advanced to a stage 3 diet which she tolerated 
without any problems. The pt had an abdominal CT scan done 
showing soft tissue stranding surrounding the jejunum, just 
distal to the patient's 
gastrojejunal anastomosis.  Findings are concerning for 
inflammatory process 
or ulcer. So we consulted the GI team to schedule an EGD as an 
outpatient for further evaluation.
 ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  
 HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.  
 Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
 At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  

 
Medications on Admission:
Albuterol sulfate HFA 90 mcg/actuation aerosol inhaler 
Albuterol sulfate 2.5 mg/3 mL (0.083 %) solution for 
nebulization
Qvar 80 mcg/actuation Metered Aerosol oral inhaler
Citalopram 10 mg tablet
Fluticasone 50 mcg/actuation nasal spray,suspension
___ 14 mcg/24 hour ___ years) intrauterine device
Trazodone 50 mg tablet
Ursodiol 300 mg capsule
Calcium citrate 250 mg tablet
Cholecalciferol (vitamin D3) 1,000 unit capsule
Vitamin B-12 500 mcg tablet
Famotidine 10 mg tablet
Claritin-D 24 Hour 10 mg-240 mg tablet,extended release
Multivitamin 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ward on ___ after presenting to 
clinic complaining of moderate crampy abdominal pain for the 
past week that got worse and associated with nausea and 
vomiting. You are now progressing appropriately, pain is better 
controlled and have tolerated you diet. You had an abdominal CT 
scan done that showed soft tissue stranding surrounding the 
jejunum, just distal to the anastomosis. These findings are 
concerning for inflammatory process or ulcer. We will have you 
follow up with GI so you get an upper endoscopy and determine if 
there is an ulcer. You are ready to go home and continue your 
recuperation. 

Please call your surgeon or return to the emergency department 
if you develop a fever greater than 101.5, chest pain, shortness 
of breath, severe abdominal pain, pain unrelieved by your pain 
medication, severe nausea or vomiting, severe abdominal 
bloating, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness or swelling around your 
incisions, or any other symptoms which are concerning to you.  

Diet: Stay on Stage III diet and advance your diet as tolerated. 
Resume your home medications.  
You will be starting some new medications:  
1. Take Tylenol up to 1,000 every 6 hours to relive your pain.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.  
3. You will be taking Omeprazole 20mg twice daily for one  
month. This medicine prevents gastric reflux.  
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.  
 
Activity: You may resume moderate exercise at your discretion, 
no abdominal exercises.  

 
Followup Instructions:
___